US09029560B2
Preparation of 2-(3-(4-bromophenyl)propyl)isoindoline-1,3-dione (C56)
To 3-(4-bromophenyl)propan-1-ol (4.70 g, 21.9 mmol), isoindoline-1,3-dione (3.54 g, 24.0 mmol) and triphenylphosphine (6.88 g, 26.2 mmol) in a 500 mL round bottomed flask equipped with a stir bar, nitrogen, and addition funnel, and cooled in an ice water bath was added diisopropyl azodicarboxylate (5.10 mL, 26.2 mmol). The reaction was allowed to warm to room temperature over the weekend. The reaction mixture was adsorbed onto Celite®. Purification by flash column chromatography using 5-20% ethyl acetate/hexanes as eluent provided a solid which was dried overnight at 50° C. in vacuo to afford the title compound as a white solid (6.51 g, 87%): mp 88-90° C.; 1H NMR (400 MHz, CDCl3) δ 7.86-7.79 (m, 2H), 7.71 (dd, J=5.5, 3.0 Hz, 2H), 7.38-7.32 (m, 2H), 7.11-7.04 (m, 2H), 3.73 (t, J=7.1 Hz, 2H), 2.68-2.59 (m, 2H), 2.07-1.96 (m, 2H); ESIMS m/z 346 [(M+2)+].

reactant | 3-(4-bromophenyl)propan-1-ol | 21.9 mmol, 4.70 g | BrC1=CC=C(C=C1)CCCO | C9H11BrO
reactant | isoindoline-1,3-dione | 24.0 mmol, 3.54 g | C1(NC(C2=CC=CC=C12)=O)=O | C8H5NO2
reactant | triphenylphosphine | 26.2 mmol, 6.88 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diisopropyl azodicarboxylate | 26.2 mmol, 5.10 mL | N(=NC(=O)OC(C)C)C(=O)OC(C)C | C8H14N2O4
product | 2-(3-(4-bromophenyl)propyl)isoindoline-1,3-dione | 6.51 g, 87% | BrC1=CC=C(C=C1)CCCN1C(C2=CC=CC=C2C1=O)=O | C17H14BrNO2
